US08497288B2
a) (2S,4R)-4-Hydroxy-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester
Diisopropylethylamine (0.782 g, 5.5 mmol) was dropped into a suspension of compound (2S,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid methyl ester (1.0 g, 5.5 mmol) in anhydrous dichloromethane (50 mL), the mixture was stirred at room temperature for 10 minutes. 1-isocyanato-4-(trifluoromethoxy)benzene (1.116 g, 5.5 mmol) was added to the suspension and the mixture was continued to be stirred for 2 hours at room temperature. The mixture was poured into water (50 mL), the resulting mixture was filtrated. The liquid was extracted with dichloromethane (3×50 mL). The organic layers was combined, washed with brine (50 mL), dried over anhydrous sodium sulphate, filtered and concentrated. The residue combined with the filter cake yielded 1.86 g (97%) of the target compound. 1H NMR (300 MHz, CDCl3): δ 7.41 (d, 2H, J=9.0 Hz), 7.14 (d, 2H, J=8.7 Hz), 6.59 (s, 1H), 4.64 (t, 2H, J=7.5 Hz), 3.78-3.73, (m, 4H), 3.59 (d, 1H, J=9.9 Hz), 2.36-2.21 (m, 2H); LC-MS: 349.1 [M+1]+.

reactant | Diisopropylethylamine | 5.5 mmol, 0.782 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid methyl ester | 5.5 mmol, 1.0 g | COC(=O)[C@H]1NC[C@@H](C1)O | C6H11NO3
reactant | 1-isocyanato-4-(trifluoromethoxy)benzene | 5.5 mmol, 1.116 g | N(=C=O)C1=CC=C(C=C1)OC(F)(F)F | C8H4F3NO2
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2S,4R)-4-Hydroxy-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester | 1.86 g, 97% | COC(=O)[C@H]1N(C[C@@H](C1)O)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C14H15F3N2O5
